US07498350B2
(5R)-3-(3-Fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-5-(4-chloro-1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one
A mixture of (5R)-3-(3-fluoro-4-iodophenyl)-5-(4-chloro-1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one (725 mg, 1.7 mmol), bis(pinacolato)diboron (1.09 g, 4.3 mmol), and potassium acetate (590 mg, 6 mmol) in dimethylsulfoxide (10 mL) was treated with dichloro[1,1′]bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (90 mg, 0.11 mmol) and allowed to react as described for Example 1. After 45 minutes the reaction mixture was cooled to room temperature, diluted with ethyl acetate and washed with aqueous ammonium chloride solution. The aqueous layer was extracted two times with ethyl acetate and the combined organic layers were washed with water, dried over sodium sulfate, and evaporated to dryness. The involatile residue was purified by chromatography on silica gel [elution with with hexanes:acetone (2:1)] and further purified by precipitation from dichloromethane with hexanes to give the product as a colorless amorphous solid (590 mg 81%) that was sufficiently pure for subsequent reactions.

reactant | (5R)-3-(3-fluoro-4-iodophenyl)-5-(4-chloro-1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one | 1.7 mmol, 725 mg | FC=1C=C(C=CC1I)N1C(O[C@H](C1)CN1N=NC(=C1)Cl)=O | C12H9ClFIN4O2
reactant | bis(pinacolato)diboron | 4.3 mmol, 1.09 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 6 mmol, 590 mg | C(C)(=O)[O-].[K+]
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium (II) dichloromethane | 0.11 mmol, 90 mg | ClCCl.[Pd+2]
product | (5R)-3-(3-Fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-5-(4-chloro-1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one | 590 mg, 81% | FC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)N1C(O[C@H](C1)CN1N=NC(=C1)Cl)=O | C18H21BClFN4O4
